US07399775B2
[2-[1-[(4-Chlorophenyl)sulfonyl]-5-(methylsulfonyl)pentyl]phenyl]methanol
In tetrahydrofuran (5 ml) was dissolved t-butyl [[2-[1-[(4-chlorophenyl)sulfonyl]-5-(methylsulfonyl)pentyl]benzyl]oxy]diphenylsilane (175 mg, 0.261 mmol). Under ice cooling, a tetrahydrofuran solution (1.0M, 0.6 ml, 0.6 mmol) of tetrabutylammonium fluoride was added dropwise to the resulting solution. The resulting mixture was then stirred at room temperature for 1 hour. After addition of water (0.5 ml), the residue obtained by concentrating the resulting mixture under reduced pressure was subjected to flash silica gel chromatography. The fraction obtained from the dichloromethane:methanol=30:1 eluate was concentrated under reduced pressure, whereby the title compound (87 mg, 0.20 mmol, 61%) was obtained as a pale yellowish brown oil.

reactant | t-butyl [[2-[1-[(4-chlorophenyl)sulfonyl]-5-(methylsulfonyl)pentyl]benzyl]oxy]diphenylsilane | 0.261 mmol, 175 mg | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCC1=C(C=CC=C1)C(CCCCS(=O)(=O)C)S(=O)(=O)C1=CC=C(C=C1)Cl | C35H41ClO5S2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 0.5 ml | O | H2O
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.6 mmol, 1.0M, 0.6 ml | O1CCCC1 | C4H8O
product | [2-[1-[(4-Chlorophenyl)sulfonyl]-5-(methylsulfonyl)pentyl]phenyl]methanol | 0.20 mmol, 87 mg, 61% | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCS(=O)(=O)C)C1=C(C=CC=C1)CO | C19H23ClO5S2
